US08633186B2
2-Amino-5-(trifluoromethyl)benzonitrile
In a 20 mL microwave vial, 2-bromo-4-(trifluoromethyl)aniline (238 mg, 1 mmol) and copper cyanide (90 mg, 1 mmol) were dissolved in N-methylpyrrolidone (NMP) (10 mL). The reaction was placed in a microwave reactor for 5 minutes at 200° C. The crude was dissolved in ethyl acetate and the precipitate was removed by filtration. The clear solution was washed with water. The organic layer was collected, dried over sodium sulfate, and evaporated under vacuum. The residue was purified by Varia HPLC (10% acetonitrile/water) to give the title compound.

reactant | 2-bromo-4-(trifluoromethyl)aniline | 1 mmol, 238 mg | BrC1=C(N)C=CC(=C1)C(F)(F)F | C7H5BrF3N
reactant | copper cyanide | 1 mmol, 90 mg | [Cu](C#N)C#N
solvent | N-methylpyrrolidone | 10 mL | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Amino-5-(trifluoromethyl)benzonitrile | NC1=C(C#N)C=C(C=C1)C(F)(F)F | C8H5F3N2
